US04132731
5,5'-Hexanedioyldiimino-bis[N-(2-hydroxypropyl)2,4,6-triiodoisophthalamic Acid]
Analogously to Example 10, 5-amino-N-(2-hydroxypropyl)2,4,6-triiodoisophthalamic acid is reacted with hexanedioic acid dichloride in dimethylacetamide and then worked up. The thus-obtained product melts at 284°-285° C., with decomposition.

reactant | 5-amino-N-(2-hydroxypropyl)2,4,6-triiodoisophthalamic acid | NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NCC(C)O)I | C11H11I3N2O4
reactant | hexanedioic acid dichloride | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 5,5'-Hexanedioyldiimino-bis[N-(2-hydroxypropyl)2,4,6-triiodoisophthalamic Acid] | C(CCCCC(=O)NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NCC(C)O)I)(=O)NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NCC(C)O)I | C28H28I6N4O10
